US05661160
Synthesis of 1-[2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Combine 2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-bromide (8 mmol), 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (12 mmol), K2CO3 (36 mmol), KI (0.8 mmol), and THF/H2O (3/1, 80 mL). Heat at reflux for 72 h. Concentrate in vacuo to remove THF and extract with dichloromethane (2×50 mL). Extract the combined organic layers using water (50 mL). Dry over MgSO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph on silica gel to obtain the title compound.

reactant | 2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-bromide | 8 mmol | FC(C1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=CC=C1)OC(C)C)=O)CCBr)(F)F | C23H25BrF3NO2
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 12 mmol | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
reactant | K2CO3 | 36 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | THF H2O | 80 mL | C1CCOC1.O
product | 1-[2-[3-(4-trifluoromethyl-phenyl)-1-(3-isopropoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | FC(C1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=CC=C1)OC(C)C)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1)(F)F | C35H40F3N3O3
